US06974831B2
Preparation of 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(2-phenylbenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid.
A slurry of 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(2-phenylbenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester (18 mg, 0.036 mmol) in dioxane (3 mL) was warmed until a clear solution was produced. The mixture was treated with 1 N lithium hydroxide solution (0.5 mL) and warmed briefly. After 2 h the solution was adjusted to pH 3 and the resulting precipitate collected via vacuum filtration to provide 6 mg (34%) of the title compound. MS ES+ m/e 483 (p+1).

reactant | 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(2-phenylbenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid methyl ester | 0.036 mmol, 18 mg | COC(COC1=C2C(=C(N(C2=C2C(=C1)CCC2)CC2=C(C=CC=C2)C2=CC=CC=C2)C)C(C(=O)N)=O)=O | C30H28N2O5
reactant | lithium hydroxide | 1 N, 0.5 mL | [OH-].[Li+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-[[3-(2-amino-1,2-dioxoethyl)-2-methyl-1-(2-phenylbenzyl)-1,6,7,8-tetrahydrocyclopent[g]indol-4-yl]oxy]acetic acid | 6 mg, 34% | NC(C(=O)C1=C(N(C2=C3C(=CC(=C12)OCC(=O)O)CCC3)CC3=C(C=CC=C3)C3=CC=CC=C3)C)=O | C29H26N2O5
